US07205326B2
3-(3-Trifluoromethoxy-phenyl)-acrylamide (0.99 g, 4.27 mmol), dichloro acetone (1.90 g, 14.95 mmol) and toluene (8 ml) were kept at reflux temperature for 16 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 2:1) yielding 0.76 g (71%) 4-chloromethyl-2-[2-(3-trifluoromethoxy-phenyl)-vinyl]-oxazole as tan solid.

reactant | 3-(3-Trifluoromethoxy-phenyl)-acrylamide | 4.27 mmol, 0.99 g | FC(OC=1C=C(C=CC1)C=CC(=O)N)(F)F | C10H8F3NO2
reactant | dichloro acetone | 14.95 mmol, 1.90 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-[2-(3-trifluoromethoxy-phenyl)-vinyl]-oxazole | 0.76 g, 71% | ClCC=1N=C(OC1)C=CC1=CC(=CC=C1)OC(F)(F)F | C13H9ClF3NO2
